US09315521B2
Lithium aluminum hydride (433 mg, 11.4 mmol) was stirred in anhydrous THF (50 mL). A solution of methyl 1,4-diethyl-1H-pyrazole-3-carboxylate (1.28 g, 7.6 mmol) in anhydrous THF (10 mL) was added at 0° C., and then stirred at room temperature for 1.5 hours. The reaction was quenched with an aqueous solution of sodium hydroxide and extracted 5 times with ethyl acetate. The combined organic phase was washed with brine and dried over sodium sulfate. After evaporation of the solvent, (1,4-diethyl-1H-pyrazol-3-yl)methanol was obtained (710 mg, 65% yield) and used in the next step without further purification.

reactant | Lithium aluminum hydride | 11.4 mmol, 433 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1,4-diethyl-1H-pyrazole-3-carboxylate | 7.6 mmol, 1.28 g | C(C)N1N=C(C(=C1)CC)C(=O)OC | C9H14N2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1,4-diethyl-1H-pyrazol-3-yl)methanol | 65% yield | C(C)N1N=C(C(=C1)CC)CO | C8H14N2O
